US04160036
5-(Dichloroacetyl)-2-(phenylmethoxy)benzoic acid, methyl ester (2.4 g) was added to sodium (0.34 g) in dry methanol (80 ml). The solution was boiled for 20 min. 0.1 N Hydrochloric acid (40 ml) was added and the solution was boiled for 30 min. The methanol was evaporated off and the mixture was extracted with ether (3×50 ml). The extracts were dried (MgSO4) and evaporated to leave crude 5-(oxoacetyl)-2-(phenylmethoxy)benzoic acid, methyl ester, hydrate as a gum.

reactant | 5-(Dichloroacetyl)-2-(phenylmethoxy)benzoic acid, methyl ester | 2.4 g | ClC(C(=O)C=1C=CC(=C(C(=O)OC)C1)OCC1=CC=CC=C1)Cl | C17H14Cl2O4
reactant | sodium | 0.34 g | [Na] | Na
reactant | Hydrochloric acid | 0.1 N, 40 ml | Cl | ClH
reactant | methanol | 80 ml | CO | CH4O
product | 5-(oxoacetyl)-2-(phenylmethoxy)benzoic acid, methyl ester, hydrate | O.O=CC(=O)C=1C=CC(=C(C(=O)OC)C1)OCC1=CC=CC=C1 | InChI=1S/C17H14O5.H2O/c1-21-17(20)14-9-13(15(19)10-18)7-8-16(14)22-11-12-5-3-2-4-6-12;/h2-10H,11H2,1H3;1H2
